US09056874B2
2-((5,7-Dimethylindolin-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile
2-((5,7-Dimethyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile (35 mg, 0.117 mmol) was suspended in DCM (1 mL), triethylsilane (0.37 mL, 2.33 mmol) and then TFA (0.5 mL) were added and the reaction was stirred at room temperature. After 1 hour the reaction was concentrated and then the resulting residue was dissolved in EtOAc and treated with 1 mL of aq. ammonium hydroxide. The residue was purified via FCC (0-100% EtOAc in heptanes) to obtain the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.47 (d, J=15.66 Hz, 1H) 8.02 (m) 7.88 (m) 7.56 (m) 7.50-7.54 (m) 6.60 (s, 1H) 5.08 (br. s., 1H) 4.08 (d, J=3.54 Hz, 2H) 3.40 (t, J=8.46 Hz, 2H) 2.91 (t, J=8.46 Hz, 2H) 2.09 (s, 3H) 1.94-2.03 (m, 3H). HRMS calcd. for C19H18N4 (M+H)+, 303.1604. found 303.1615.

reactant | 2-((5,7-Dimethyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile | 0.117 mmol, 35 mg | CC=1C(=C2C=CNC2=C(C1)C)CC1=NC2=C(N1)C=CC(=C2)C#N | C19H16N4
reactant | triethylsilane | 2.33 mmol, 0.37 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 2-((5,7-Dimethylindolin-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile | CC=1C(=C2CCNC2=C(C1)C)CC1=NC2=C(N1)C=CC(=C2)C#N | C19H18N4
